US07402585B2
2,3-difluoroaniline (1.15 g, 8.95 mmol) was added to a suspension of (3-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-5-yl)acetic acid (2.70 g, 7.46 mmol) in pyridine (30 ml) and the reaction cooled to 0° C. Phosphorous oxychloride (1.14 g, 7.46 mmol) was added dropwise and the reaction stirred at 0° C. for 1 hour. The reaction was warmed to ambient temperature and more phosphorous oxychloride (0.5 ml) added. The reaction was stirred for 4.5 hours. The reaction mixture was diluted with ethyl acetate:ether (100 ml: 37 ml) and stirred for 18 hours. The precipitate was filtered, suspended in water and neutralised with ammonium hydroxide (7%, 15 ml). The resultant yellow suspension was filtered, washed with water and dried (phosphorous pentoxide) to yield 2-(3-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-5-yl)-N-(2,3-difluorophenyl)acetamide as an orange powder (3.15 g, 89% yield):

reactant | 2,3-difluoroaniline | 8.95 mmol, 1.15 g | FC1=C(N)C=CC=C1F | C6H5F2N
reactant | (3-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-5-yl)acetic acid | 7.46 mmol, 2.70 g | ClCCCOC1=CC=C2C(=NC=NC2=C1)NC1=NNC(=C1)CC(=O)O | C16H16ClN5O3
reactant | Phosphorous oxychloride | 7.46 mmol, 1.14 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorous oxychloride | 0.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-5-yl)-N-(2,3-difluorophenyl)acetamide | 3.15 g, 89% yield | ClCCCOC1=CC=C2C(=NC=NC2=C1)NC1=NNC(=C1)CC(=O)NC1=C(C(=CC=C1)F)F | C22H19ClF2N6O2
